US06251917B1
a) Ethyl 2-(E-2-phenyl-1-ethenyl)benzoate
8.9 g (38.9 mmol) of ethyl 2-bromobenzoate, 5.1 g (49.4 mmol) of styrene, 0.18 g (0.8 mmol) of palladium diacetate, 0.48 g (1.6 mmol) of tri-o-tolylphosphine and 5 g (49.1 mmol) of triethylamine were reacted in 90 ml of anhydrous acetonitrile at 100° C. for 23 h. The mixture was then filtered and the filtrate was diluted with ethyl acetate, washed with water, dried and concentrated under reduced pressure. 10.2 g (100%) of the product were obtained.

reactant | ethyl 2-bromobenzoate | 38.9 mmol, 8.9 g | BrC1=C(C(=O)OCC)C=CC=C1 | C9H9BrO2
reactant | styrene | 49.4 mmol, 5.1 g | C=CC1=CC=CC=C1 | C8H8
reactant | triethylamine | 49.1 mmol, 5 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 90 ml | C(C)#N | C2H3N
catalyst | palladium diacetate | 0.8 mmol, 0.18 g | C(C)(=O)[O-].C(C)(=O)[O-].[Pd+2]
catalyst | tri-o-tolylphosphine | 1.6 mmol, 0.48 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
product | Ethyl 2-(E-2-phenyl-1-ethenyl)benzoate | 10.2 g, 100% | C1(=CC=CC=C1)/C=C/C1=C(C(=O)OCC)C=CC=C1 | C17H16O2
